US04507316
N-(3-Ethylthio-2-methyl-propanoyl)-N-cyclopentyl-glycine
A mixture of 3.8 g (0.012) of N-(3-ethylthio-2-methyl propanoyl)-N-cyclopentyl glycine ethyl ester in 80 ml of 10% NaOH was stirred for 7 hours. It was then cooled, acidified with 10% HCl, extracted with ether, dried over MgSO4, and evaporated to dryness giving oily residue which was purified by HPLC using HOAc-EtOAc-Hexane (5:45:50).

reactant | N-(3-ethylthio-2-methyl propanoyl)-N-cyclopentyl glycine ethyl ester | 3.8 g | C(C)OC(CN(C1CCCC1)C(C(CSCC)C)=O)=O | C15H27NO3S
reactant | HCl | Cl | ClH
solvent | NaOH | 80 ml | [OH-].[Na+]
product | N-(3-Ethylthio-2-methyl-propanoyl)-N-cyclopentyl-glycine | C(C)SCC(C(=O)N(CC(=O)O)C1CCCC1)C | C13H23NO3S
